US07375134B2
Step 3: Preparation of (2S)-2-{[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]amino}-4-methylpentan-1-ol
n-BuLi (2.5 M in hexanes, 42 mL) was added to a −70° C. THF (400 mL) solution of 1,4-dibromobenzene (25.8 g) and the mixture was stirred for 25 minutes. A THF (30 mL) solution of (2S)-1-{[tert-butyl(dimethyl)silyl]oxy}-4-methyl-N-[(1E)-2,2,2-trifluoroethylidene]pentan-2-amine (31 g) was then added dropwise and the mixture was stirred for 1.5 hour. It was then poured slowly into a mixture of ethyl acetate (500 mL), water (2 L), ice (300 g) and ammonium chloride (100 g) under vigorous stirring. The organic layer was separated and the aqueous further extracted with ethyl acetate (2×500 mL). The combined organic layers were washed with brine, dried with magnesium sulfate and the solvent was removed in vacuo to yield a residue, which was used as such. The residue from above was dissolved in THF (250 mL) and the solution was cooled to 0° C. A 1 M THF solution of t-butylammonium fluoride (110 mL) was added dropwise and the mixture was reacted for 4 hours. It was poured into ethyl acetate (300 mL), water (2 L) and ammonium chloride (100 g) under vigorous stirring. The organic layer was separated and the aqueous further extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine, dried with magnesium sulfate and the solvent was removed in vacuo to yield a residue which was purified purified on SiO2 using a gradient of ethyl acetate and hexanes (1:5 to 1:4) as eluant to yield the title compound.

reactant | n-BuLi | 2.5 M, 42 mL | [Li]CCCC
reactant | 1,4-dibromobenzene | 25.8 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | (2S)-1-{[tert-butyl(dimethyl)silyl]oxy}-4-methyl-N-[(1E)-2,2,2-trifluoroethylidene]pentan-2-amine | 31 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CC(C)C)/N=C/C(F)(F)F | C14H28F3NOSi
reactant | ammonium chloride | 100 g | [Cl-].[NH4+]
reactant | t-butylammonium fluoride | 110 mL | [F-].C(C)(C)(C)[NH3+]
reactant | ammonium chloride | 100 g | [Cl-].[NH4+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | water | 2 L | O | H2O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 2 L | O | H2O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | (2S)-2-{[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]amino}-4-methylpentan-1-ol | BrC1=CC=C(C=C1)[C@@H](C(F)(F)F)N[C@H](CO)CC(C)C | C14H19BrF3NO
